US07981903B2
A solution of 1-[3-(methyloxy)-4-nitrophenyl]-4-propylpiperazine (Intermediate B50, 1.5 g, 5.4 mmol), FeCl3 (0.300 g, 1.85 mmol), activated carbon (2.0 g), and hydrazine hydrate (2.1 mL, 65 mmol) was heated in methanol (50 mL) for 3 hours. The mixture was filtered over celite and concentrated to give 2-(methyloxy)-4-(4-propyl-1-piperazinyl)aniline as a white solid (1.03 g, 4.2 mmol, 78% yield). 1H NMR (400 MHz, CDCl3) δ ppm 0.93 (t, J=7.51 Hz, 3 H), 1.51-1.61 (m, 2 H), 2.37 (d, J=8.06 Hz, 2 H), 2.57-2.66 (m, 4 H), 3.09-3.10 (m, 4 H), 3.53 (s, 2 H), 3.83 (s, 3 H), 6.42 (dd, J=8.24, 2.38 Hz, 1H), 6.52 (d, J=2.20 Hz, 1 H), 6.64 (d, J=8.42 Hz, 1 H).

reactant | 1-[3-(methyloxy)-4-nitrophenyl]-4-propylpiperazine | 5.4 mmol, 1.5 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CCC | C14H21N3O3
reactant | hydrazine hydrate | 65 mmol, 2.1 mL | O.NN
solvent | methanol | 50 mL | CO | CH4O
product | 2-(methyloxy)-4-(4-propyl-1-piperazinyl)aniline | 4.2 mmol, 1.03 g, 78% yield | COC1=C(N)C=CC(=C1)N1CCN(CC1)CCC | C14H23N3O
